US08232277B2
Synthesis of 1,4-bis{3,4-bis[3-(piperidin-1-yl)propoxy]phenyl}-butane tetrakis-hydrochloride salt (C48H78N4O4.4HCl, FW=921.00) “Compound E”
To all ice cooled (0-5° C.) solution of aqueous concentrated HCl (7.0 mL, of 11 N, 77 mmol, 24 equiv.) in 95% ethanol (21 mL) was added dropwise a solution of 1,4-bis{(3,4-bis[3-(piperidin-1-yl)propoxy]phenyl}-butane (2.50 g, 3.225 mmol) in 95% ethanol (21 mL)*. The solution was allowed to stir at 0-5° C. for three hours and the solvent was removed on a rotary evaporator keeping the temperature of the water bath at 45° C. The hydrochloride salt was dried under high vacuum for 48 hours. The crude product was then crystallized from ethanol: ether to give 2.46 g of the product (83.2% yield) after drying high vacuum for 72 hours. *Note that the starting material 1,4-bis{3,4-bis[3-(piperidin-1-yl)propoxy]phenyl}-butane did not dissolve completely in 95% ethanol at room temperature, so the mixture was heated at 45° C. during which 1,4-bis{3,4-bis[3-(piperidin-1-yl)propoxy]phenyl}-butane dissolved. The solution was cooled to room temperature and added to the ethanolic HCl solution.

reactant | HCl | 77 mmol, 11 N, 7.0 mL, 24 equiv. | Cl | ClH
reactant | (3,4-bis[3-(piperidin-1-yl)propoxy]phenyl}-butane | 3.225 mmol, 2.50 g | N1(CCCCC1)CCCOC=1C=C(C=CC1OCCCN1CCCCC1)CCCC | C26H44N2O2
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 21 mL | C(C)O | C2H6O
solvent | ethanol | 21 mL | C(C)O | C2H6O
product | 1,4-bis{3,4-bis[3-(piperidin-1-yl)propoxy]phenyl}-butane tetrakis-hydrochloride salt | 2.46 g, 83.2% yield | Cl.Cl.Cl.Cl.N1(CCCCC1)CCCOC=1C=C(C=CC1OCCCN1CCCCC1)CCCCC1=CC(=C(C=C1)OCCCN1CCCCC1)OCCCN1CCCCC1 | InChI=1S/C48H78N4O4.4ClH/c1-7-25-49(26-8-1)33-15-37-53-45-23-21-43(41-47(45)55-39-17-35-51-29-11-3-12-30-51)19-5-6-20-44-22-24-46(54-38-16-34-50-27-9-2-10-28-50)48(42-44)56-40-18-36-52-31-13-4-14-32-52;;;;/h21-24,41-42H,1-20,25-40H2;4*1H
